US08110585B2
2-ethyl-2H-indazole-4-carbaldehyde
(2-Ethyl-2H-indazol-4-yl)methanol (1.14 g, 6.47 mmol), 4 Å molecular sieves (550 mg), 4-methylmorpholine N-oxide (1.89 g, 16.2 mmol) and tetra-n-propylammonium perruthenate(VII) (114 mg, 0.323 mmol) were added to acetonitrile (70 mL) under ice-cooling, and the mixture was stirred at room temperature for 2 hr. 2-Propanol was added, and the mixture was stirred for 30 min. The mixture was filtered by silica gel column chromatography (ethyl acetate). The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=10/90→50/50) to give the title compound (820 mg, yield 73%).

reactant | (2-Ethyl-2H-indazol-4-yl)methanol | 6.47 mmol, 1.14 g | C(C)N1N=C2C=CC=C(C2=C1)CO | C10H12N2O
reactant | 4-methylmorpholine N-oxide | 16.2 mmol, 1.89 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | acetonitrile | 70 mL | C(C)#N | C2H3N
solvent | 2-Propanol | CC(C)O | C3H8O
product | 2-ethyl-2H-indazole-4-carbaldehyde | 820 mg, yield 73% | C(C)N1N=C2C=CC=C(C2=C1)C=O | C10H10N2O
